US09353108B2
G) Diethyl 2-hydroxy-6-propylpyridine-3,5-dicarboxylate
A mixture of ethyl 3-oxohexanoate (20.0 g) and 1,1-dimethoxy-N,N-dimethylmethanamine (15.8 g) in ethanol (40 mL) was stirred at 40 to 50° C. for 3 hours. After cooling to 25° C., ethyl cyanoacetate (15.7 g) was added to the mixture followed by addition of N-ethyl-N-isopropylpropan-2-amine (22.1 mL) at room temperature. The mixture was stirred at 50° C. for 16 hours. Acetic acid (9.11 g) and ethanol (40 mL) were added to the mixture at room temperature. The mixture was warmed to 50° C., and water (100 mL) was charged. The suspension was cooled to room temperature and stirred for 30 minutes. The precipitate was collected by filtration, washed with ethanol-water (20 mL-80 mL) and dried at 70° C. under vacuum to give a white solid. This solid was dissolved in ethanol (200 mL) at reflux temperature. Water (150 mL) was added to the mixture at the same temperature. The mixture was cooled gradually, stirred at 50 to 60° C. for 1 hour and at room temperature for 2 hours. The precipitate was collected by filtration, washed with ethanol-water (25 mL-25 mL) and dried at 70° C. under vacuum to give the title compound (17.5 g).

reactant | ethyl 3-oxohexanoate | 20.0 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 15.8 g | COC(N(C)C)OC | C5H13NO2
reactant | ethyl cyanoacetate | 15.7 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | N-ethyl-N-isopropylpropan-2-amine | 22.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | Water | 150 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | Acetic acid | 9.11 g | C(C)(=O)O | C2H4O2
product | Diethyl 2-hydroxy-6-propylpyridine-3,5-dicarboxylate | 17.5 g | OC1=NC(=C(C=C1C(=O)OCC)C(=O)OCC)CCC | C14H19NO5
